US07265120B2
A mixture of 6-(5-hydroxy-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone (200 mg), 2,6-lutidine (139 mg) and trifluoromethane sulfonic anhydride (257 mg) in CH2Cl2 (8 ml) was stirred at 0° C. for 4 hours. Water and EtOAc were added to the reaction mixture. The organic layer was washed with 1N HCl, aq. NaHCO3 and brine. The organic layer was separated, and dried over MgSO4. The solvent was removed in vacuo. The residue was purified by silica gel column chromatography eluted with a mixture of n-hexane and EtOAc. The fractions were concentrated in vacuo to obtain 5-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-6-phenyl-2-pyrazinyl trifluoromethanesulfonate (174.3 mg) as white powder.

reactant | 6-(5-hydroxy-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 200 mg | OC=1N=C(C(=NC1)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C17H16N4O2
reactant | 2,6-lutidine | 139 mg | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethane sulfonic anhydride | 257 mg | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | Water | O | H2O
solvent | CH2Cl2 | 8 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-6-phenyl-2-pyrazinyl trifluoromethanesulfonate | 174.3 mg | FC(S(=O)(=O)OC1=NC(=C(N=C1)C1=NN(C(C=C1)=O)C(C)C)C1=CC=CC=C1)(F)F | C18H15F3N4O4S
